US09371444B2
Methoxy pyrene (23.20 g, 0.1 mol), 2-naphthoyl chloride (56.8 g, 0.333 mol), and 1,2-dichloroethane (325 g) were put in a flask. Then, aluminum chloride (29.4 g, 0.12 mol) was slowly added to the solution at ambient temperature, and the mixture was agitated for 2 hours. When the reaction was terminated, a precipitate obtained by adding methanol thereto was filtered, obtaining 2-naphthoyl methoxy pyrene.

reactant | Methoxy pyrene | 0.1 mol, 23.20 g | COC1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C17H12O
reactant | 2-naphthoyl chloride | 0.333 mol, 56.8 g | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | 1,2-dichloroethane | 325 g | ClCCCl | C2H4Cl2
reactant | aluminum chloride | 0.12 mol, 29.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methanol | CO | CH4O
product | 2-naphthoyl methoxy pyrene | C1=C(C=CC2=CC=CC=C12)C(=O)C1=C(C2=CC=C3C=CC=C4C=CC(=C1)C2=C43)OC | C28H18O2
